US04550107
2-[(1-Pyrrolidinyl)methyl]pyridine
With stirring and external cooling with ice, a solution of 2-(chloromethyl)pyridine hydrochloride (100 g, 0.61 mol) in 95% ethanol (600 ml) is added dropwise to pyrrolidine (500 ml, 426 g, 5.99 mol) and the resulting mixture is heated to 90° C. for 1 hour. After cooling, the mixture is suction filtered, the filter residue is thoroughly washed with ether, the filtrate is concentrated in vacuo and the residue is made strongly alkaline with 40% potassium hydroxide solution. It is extracted exhaustively with ether, the extracts obtained are freed from solvent and the remaining residue is distilled in vacuo. The desired compound (93.0 g) is obtained. Boiling point 19 mm Hg 118°-121° C.

reactant | 2-(chloromethyl)pyridine hydrochloride | 0.61 mol, 100 g | Cl.ClCC1=NC=CC=C1
reactant | pyrrolidine | 5.99 mol, 500 ml, 426 g | N1CCCC1 | C4H9N
solvent | ethanol | 600 ml | C(C)O | C2H6O
product | 2-[(1-Pyrrolidinyl)methyl]pyridine | 93.0 g | N1(CCCC1)CC1=NC=CC=C1 | C10H14N2
